US08420823B2
N-(3-methoxypyridin-2-yl)-3-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 92 but using 3-(piperidin-1-ylsulfonyl)benzoic acid and 3-methoxypyridine-2-amine as the starting materials.

reactant | 3-(piperidin-1-ylsulfonyl)benzoic acid | N1(CCCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO4S
reactant | 3-methoxypyridine-2-amine | COC=1C(=NC=CC1)N | C6H8N2O
product | N-(3-methoxypyridin-2-yl)-3-(piperidin-1-ylsulfonyl)benzamide | COC=1C(=NC=CC1)NC(C1=CC(=CC=C1)S(=O)(=O)N1CCCCC1)=O | C18H21N3O4S
